US03998834
55 Parts of 4-[(4-methoxyphenyl)amino]-1-(phenylmethyl)-4-piperidinecarboxylic acid are dissolved in 400 parts of dry hexamethylphosphoric triamide at 95° C. The solution is cooled to 15° C and 4.8 parts of sodium hydride dispersion 78% are added. After stirring for 2 hours at room temperature, 26.5 parts of iodomethane are added dropwise at a temperature below 20° C. Upon completion, stirring is continued for 24 hours at room temperature. The reaction mixture is poured onto 600 parts of water and the product is extracted with methylbenzene. The extract is washed once with a sodium hydroxide solution 10% and twice with water, dried, filtered and evaporated. The residue is converted into the ethanedioate salt in 2-propanol. The salt is filtered off and crystallized from 2-propanol, yielding methyl 4-[(4-methoxyphenyl)amino]-1-(phenylmethyl)-4-piperidinecarboxylate ethanedioate; mp. 177°-185° C.

reactant | 4-[(4-methoxyphenyl)amino]-1-(phenylmethyl)-4-piperidinecarboxylic acid | COC1=CC=C(C=C1)NC1(CCN(CC1)CC1=CC=CC=C1)C(=O)O | C20H24N2O3
reactant | sodium hydride | [H-].[Na+]
reactant | iodomethane | IC | CH3I
reactant | water | O | H2O
reactant | hexamethylphosphoric triamide | CN(P(N(C)C)(N(C)C)=O)C | C6H18N3OP
product | methyl 4-[(4-methoxyphenyl)amino]-1-(phenylmethyl)-4-piperidinecarboxylate ethanedioate | C(C(=O)O)(=O)O.COC1=CC=C(C=C1)NC1(CCN(CC1)CC1=CC=CC=C1)C(=O)OC | InChI=1S/C21H26N2O3.C2H2O4/c1-25-19-10-8-18(9-11-19)22-21(20(24)26-2)12-14-23(15-13-21)16-17-6-4-3-5-7-17;3-1(4)2(5)6/h3-11,22H,12-16H2,1-2H3;(H,3,4)(H,5,6)
